US05482822
In dimethylformamide, 0.05 mol of 2,7-diamino-9-fluorenone, 0.3 mol of p-nitroiodobenzene, 0.12 mol of anhydrous potassium carbonate, and copper powder were added and refluxed with stirring for 4 days. After the reaction was completed, the reaction mixture was filtered, and the filtered product was thoroughly washed with dimethylformamide, water and acetone, followed by drying. Thus, 0.038 mol of reddish brown tetrakis(p-nitrophenyl)-2,7-diamino-9-fluorenone was obtained.

reactant | 2,7-diamino-9-fluorenone | 0.05 mol | NC1=CC=2C(C3=CC(=CC=C3C2C=C1)N)=O | C13H10N2O
reactant | p-nitroiodobenzene | 0.3 mol | [N+](=O)([O-])C1=CC=C(C=C1)I | C6H4INO2
reactant | potassium carbonate | 0.12 mol | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | CN(C=O)C | C3H7NO
catalyst | copper | [Cu] | Cu
product | tetrakis(p-nitrophenyl)-2,7-diamino-9-fluorenone | 0.038 mol | [N+](=O)([O-])C1=CC=C(C=C1)C1=C2C=3C(=C(C(=C(C3C(C2=CC(=C1)N)=O)C1=CC=C(C=C1)[N+](=O)[O-])N)C1=CC=C(C=C1)[N+](=O)[O-])C1=CC=C(C=C1)[N+](=O)[O-] | C37H22N6O9
